US05096900
3.A.1. 1-(phenylmethyl)-4-piperidinecarboxamide
123.0 g (0.96 mol) of 4-piperidinecarboxamide and 90.8 g (1.08 mol) of sodium bicarbonate are introduced under an argon atmosphere into 2 1 of dry toluene. 180.6 g, equivalent to 125.6 ml (1.056 mol), of bromomethylbenzene are added, and the mixture is heated under reflux for 5 h.

reactant | 4-piperidinecarboxamide | 0.96 mol, 123.0 g | N1CCC(CC1)C(=O)N | C6H12N2O
reactant | sodium bicarbonate | 1.08 mol, 90.8 g | C([O-])(O)=O.[Na+]
reactant | bromomethylbenzene | BrCC1=CC=CC=C1 | C7H7Br
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(phenylmethyl)-4-piperidinecarboxamide | C1(=CC=CC=C1)CN1CCC(CC1)C(=O)N | C13H18N2O
